US09278951B2
Synthesis of 1-undecyl-3-methylnaphthyl-4,5-dichloroimidazolium bromide
4,5-Dichloroimidazole (1.23 g, 9 mmol) will be dissolved into acetonitrile. Potassium hydroxide (0.61 g, 9.9 mmol) will be added and the mixture will be allowed to stir for 0.5 h. 1-bromododecane (9 mmol) will be added and the solution will be allowed to reflux overnight. The solution will be filtered hot to remove a white precipitate (presumed to be KBr) and 2-bromomethylnaphthalene (1.98 g, 9 mmol) will be added and the mixture will be returned to reflux overnight. The mixture will be allowed to cool to room temperature, resulting in a yellow/white precipitate.

reactant | 4,5-Dichloroimidazole | 9 mmol, 1.23 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | Potassium hydroxide | 9.9 mmol, 0.61 g | [OH-].[K+]
reactant | 1-bromododecane | 9 mmol | BrCCCCCCCCCCCC | C12H25Br
reactant | KBr | [K+].[Br-]
reactant | 2-bromomethylnaphthalene | 9 mmol, 1.98 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-undecyl-3-methylnaphthyl-4,5-dichloroimidazolium bromide | [Br-].C(CCCCCCCCCC)C1=C(C(=CC2=CC=CC=C12)C)[N+]1=CNC(=C1Cl)Cl | InChI=1S/C25H32Cl2N2.BrH/c1-3-4-5-6-7-8-9-10-11-16-22-21-15-13-12-14-20(21)17-19(2)23(22)29-18-28-24(26)25(29)27;/h12-15,17-18H,3-11,16H2,1-2H3;1H
